US08076345B2
A) 2-Methoxypyrimidine-5-carbaldehyde
To a stirred slurry of O-methylisourea hemisulfate (1.08 g, 4.13 mmol), vinamidinium salt (3.00 g, 8.26 mmol), 1-methylethyl acetate (16.0 mL, 137 mmol) was added a solution of potassium bicarbonate (1.17 g, 11.6 mmol) in water (5.0 mL) over a 10 minutes period. After completion of the addition the resulting reaction mixture was stirred at room temperature for 40 hours. The mixture was diluted with water (20 mL) and extracted with EtOAc (2×25 mL). The combined organic layers were dried over sodium sulfate and concentrated to yield a white solid.

reactant | O-methylisourea hemisulfate | 4.13 mmol, 1.08 g | S(=O)(=O)(O)O.COC(N)=N.COC(N)=N
reactant | vinamidinium | 8.26 mmol, 3.00 g | C[NH+](C)CC(=C[NH+](C)C)CN(C)C
reactant | 1-methylethyl acetate | 137 mmol, 16.0 mL | C(C)(=O)OC(C)C | C5H10O2
reactant | potassium bicarbonate | 11.6 mmol, 1.17 g | C([O-])(O)=O.[K+]
solvent | water | 5.0 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 2-Methoxypyrimidine-5-carbaldehyde | COC1=NC=C(C=N1)C=O | C6H6N2O2
